US04873236
11-[[[2-[2-[[Bis(methylethyl)amino]methyl]-piperidin-l-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[2-[[bis(methylethyl)amino]methyl]-piperidin-l-yl]ethanamine in a yield of 34% of theory. Colourless crystals, m.p. 181°-182° C. (acetonitrile using activated charcoal).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[2-[[bis(methylethyl)amino]methyl]-piperidin-l-yl]ethanamine | CC(C)N(C(C)C)CC1N(CCCC1)CCN | C14H31N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 11-[[[2-[2-[[Bis(methylethyl)amino]methyl]-piperidin-l-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 34% | CC(C)N(C(C)C)CC1N(CCCC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C27H38N6O2
